US09255100B2
4-(6-bromo-8-{[2-(methylsulfonyl)ethyl]amino}imidazo[1,2-b]pyridazin-3-yl)-N-cyclopropyl-2-methylbenzamide
To a stirred solution of 1.12 g (2.5 mmol) 4-[6-bromo-8-(methylsulfonyl)imidazo[1,2-b]pyridazin-3-yl]-N-cyclopropyl-2-methyl benzamide which was prepared according to intermediate example 516b in 15 mL NMP is added 924 mg (7.5 mmol) 2-(methylsulfonyl)ethanamine and 1.94 g (15 mmol) DIPEA and the mixture is heated at 160° C. for 4 h in a heating block. After working up and without further purification 1.18 g (96%) of the title compound are obtained.

reactant | 4-[6-bromo-8-(methylsulfonyl)imidazo[1,2-b]pyridazin-3-yl]-N-cyclopropyl-2-methyl benzamide | 2.5 mmol, 1.12 g | BrC=1C=C(C=2N(N1)C(=CN2)C2=CC(=C(C(=O)NC1CC1)C=C2)C)S(=O)(=O)C | C18H17BrN4O3S
reactant | 2-(methylsulfonyl)ethanamine | 7.5 mmol, 924 mg | CS(=O)(=O)CCN | C3H9NO2S
reactant | DIPEA | 15 mmol, 1.94 g | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
product | 4-(6-bromo-8-{[2-(methylsulfonyl)ethyl]amino}imidazo[1,2-b]pyridazin-3-yl)-N-cyclopropyl-2-methylbenzamide | BrC=1C=C(C=2N(N1)C(=CN2)C2=CC(=C(C(=O)NC1CC1)C=C2)C)NCCS(=O)(=O)C | C20H22BrN5O3S
